US07977344B2
N2-Butyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine
To a solution of 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (10 g) in dry ethylene glycol (50 ml) at room temperature and under nitrogen was added n-butylamine (16 ml) in one go. The reaction was heated at 120° C. overnight. The reaction was cooled to room temperature, diluted with ethyl acetate (150 ml) and washed with water (2×50 ml). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. This afforded the title compound as a viscous green oil (10.2 g) that was used in the next step without further purification.

reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 10 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
reactant | n-butylamine | 16 ml | C(CCC)N | C4H11N
solvent | ethylene glycol | 50 ml | C(CO)O | C2H6O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N2-Butyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | 10.2 g | C(CCC)NC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C14H22N6O
